US06762181B1
1-[1-(R)-Phenylethyl]-4-(R)-[(2-pyridyl)carbonyl]-2-pyrrolidone
In an atmosphere of nitrogen and at −78° C., n-butyl lithium (1.5 mol/l tetrahydrofuran solution; 13.2 ml, 19.9 mmol) was added dropwise to a tetrahydrofuran solution (40 ml) of 2-bromopyridine (1.94 ml, 19.9 mmol), and then the mixture was stirred for 10 minutes. At −78° C., to this was further added dropwise a tetrahydrofuran solution (20 ml) of N-methyl-N-methoxy-1-(1-(R)-phenylethyl]-5-oxopyrrolidine-3-(R)-carboxamide (3.66 g, 13.2 mmol), and the mixture was stirred for 30 minutes. The reaction solution was mixed with 1 mol/l hydrochloric acid (200 ml), warmed up to room temperature and then extracted with diethyl ether (200 ml×2). The resulting organic layer was washed with saturated brine (100 ml) and dried over anhydrous magnesium sulfate. The solvent was evaporated under a reduced pressure and the residue was applied to a silica gel column chromatography (silica gel 100 g). By eluting with a n-hexane:ethyl acetate system of from (3:1) to (1:1), 1.97 g (52%) of the title compound was obtained as a light yellow oil. 1H-NMR (400 MHz, CDCl3) δ: 1.54 (3H, d, J=7.08 Hz), 2.80-2.83 (2H, m), 3.35 (1H, t, J=9.37 Hz), 3.61 (1H, dd, J=6.35, 9.37 Hz), 4.49-4.54 (1H, m), 5.54 (1H, q, J=7.08 Hz), 7.25-7.38 (5H, m), 7.47-7.50 (1H, m), 7.86 (1H, dt, J=1.71, 7.81 Hz), 8.08 (1H, d, J=7.81 Hz), 8.64-8.65 (1H, m).

reactant | n-butyl lithium | 19.9 mmol, 1.5 mol/l, 13.2 ml | C(CCC)[Li]
reactant | 2-bromopyridine | 19.9 mmol, 1.94 ml | BrC1=NC=CC=C1 | C5H4BrN
reactant | N-methyl-N-methoxy-1-(1-(R)-phenylethyl]-5-oxopyrrolidine-3-(R)-carboxamide | 13.2 mmol, 3.66 g | CN(C(=O)[C@H]1CN(C(C1)=O)[C@H](C)C1=CC=CC=C1)OC | C15H20N2O3
reactant | hydrochloric acid | 1 mol/l, 200 ml | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1-[1-(R)-Phenylethyl]-4-(R)-[(2-pyridyl)carbonyl]-2-pyrrolidone | 1.97 g, 52% | C1(=CC=CC=C1)[C@@H](C)N1C(C[C@H](C1)C(=O)C1=NC=CC=C1)=O | C18H18N2O2
